US07893267B2
A mixture of 913 mg (5.46 mmol) 3-amino-2-hydroxy-benzoic acid methyl ester, 894 mg (8.19 mmol) of cyanogen bromide, 14.4 mL of ethanol and 1.6 mL of water was heated under reflux for 1 h. Ethanol was evaporated under reduced pressure and 20 mL of 2 N aq. Na2CO3 was added to the residue. The precipitated solid was filtered and washed with water. The remaining product was treated with methanol and the soluble filtrate containing the product was evaporated in vacuo to provide 797 mg (4.15 mmol, 76%) of 2-amino-benzooxazole-7-carboxylic acid methyl ester. LCMS: 193 (M+1)+.

reactant | 3-amino-2-hydroxy-benzoic acid methyl ester | 5.46 mmol, 913 mg | COC(C1=C(C(=CC=C1)N)O)=O | C8H9NO3
reactant | cyanogen bromide | 8.19 mmol, 894 mg | N#CBr | CBrN
reactant | ethanol | 14.4 mL | C(C)O | C2H6O
solvent | water | 1.6 mL | O | H2O
product | 2-amino-benzooxazole-7-carboxylic acid methyl ester | 4.15 mmol, 797 mg, 76% | COC(=O)C1=CC=CC=2N=C(OC21)N | C9H8N2O3
